US05739132
2-Amino-6-[4,5-dihydropyridazin-3(2H)-on-6-yl]-7-chloro-1,2,3,4-tetrahydronaphthalene.hydroiodide and butanesulfonyl chloride were treated in the same manner as in Example 111 to obtain 2-n-butylsulfonylamino-6-[4,5-dihydropyridazin-3(2H)-on-6-yl]-7-chloro-1,2,3,4-tetrahydronaphthalene.

reactant | 2-Amino-6-[4,5-dihydropyridazin-3(2H)-on-6-yl]-7-chloro-1,2,3,4-tetrahydronaphthalene.hydroiodide | I.NC1CC2=CC(=C(C=C2CC1)C=1CCC(NN1)=O)Cl
reactant | butanesulfonyl chloride | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
product | 2-n-butylsulfonylamino-6-[4,5-dihydropyridazin-3(2H)-on-6-yl]-7-chloro-1,2,3,4-tetrahydronaphthalene | C(CCC)S(=O)(=O)NC1CC2=CC(=C(C=C2CC1)C=1CCC(NN1)=O)Cl | C18H24ClN3O3S
